US07576215B2
N, 4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXAMIDE
To a solution of 4-phenyl-8-trifluoromethyl-quinoline-3-carboxylic acid (0.24 g, 0.757 mmole) in 15 mL DMF was added aniline (0.137 mL, 1.51 mmole), EDCI-HCl (0.218 g, 1.13 mmole), and DMAP (0.184 g, 1.51 mmole). After stirring at room temperature overnight, the solution was partitioned between ethyl acetate and water and the aqueous layer was extracted with ethyl acetate. The combined organic phases were washed with water, brine, and dried with magnesium sulfate. The organic phases were concentrated and the residue was loaded onto silica gel and chromatographed with hexanes:ethyl acetate (9:1) to afford 0.211 g (71%) of the title compound as a white solid: mp 207-208° C.; Calculated mass for C23H15N2F3O is 392.38, found by ESI MS, 393 (M+H)+, found by HRMS (ESI), 393.12056 (M+H)+; 1H NMR (DMSO-d6) δ 10.40 (bs, 1H), 9.25 (bs, 1H), 8.31 (d, 1H, J=6.9 Hz), 7.90 (d, 1H, J=8.3 Hz), 7.77 (t, 1H, J=7.5 Hz), 7.47 (m, 7H), 7.28 (t, 2H, J=7.5 Hz), 7.06 (t, 1H, J=7.06 Hz). Anal. Calcd for C23H15N2F3O: C, 70.40; H, 3.85; N, 7.14. Found: C, 70.00; H, 3.61; N, 6.96.

reactant | 4-phenyl-8-trifluoromethyl-quinoline-3-carboxylic acid | 0.757 mmole, 0.24 g | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)O | C17H10F3NO2
reactant | aniline | 1.51 mmole, 0.137 mL | NC1=CC=CC=C1 | C6H7N
reactant | EDCI HCl | 1.13 mmole, 0.218 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.51 mmole, 0.184 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N, 4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXAMIDE | 0.211 g, 71% | C1(=CC=CC=C1)NC(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C23H15F3N2O
